US06972297B2
(a) 6-Hydroxy-5-iodonicotinic acid
6-Hydroxynicotinic acid (20 g) in water (200 ml) and H2SO4 (80 ml) was heated to 90° C. for 1 hour. Potassium iodate (0.42 equivalent) and potassium iodide (0.96 equivalent) were both added portionwise over 2 hours. After a further hour at 90° C. the mixture was cooled to 60° C. and added to 1 kg of ice. The brown solid was filtered off, dried and taken up in DMF (30 ml)/EtOH(1 litre). Sodium metabisulfite was added until the brown colour disappeared and the mixture was poured onto ice (2 kg), a further 1.5 litre water added and the white solid filtered to give title compound (16.5 g). NMR δ(DMSO) 12.95 (1H, broad), 12.35 (1H, broad), 8.36 (1H, d), 8.03 (1H, d)

reactant | 6-Hydroxynicotinic acid | 20 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | Potassium iodate | 0.42 equivalent | I(=O)(=O)[O-].[K+]
reactant | potassium iodide | 0.96 equivalent | [I-].[K+]
solvent | water | 200 ml | O | H2O
solvent | H2SO4 | 80 ml | OS(=O)(=O)O | H2O4S
product | 6-Hydroxy-5-iodonicotinic acid | 16.5 g | OC1=NC=C(C(=O)O)C=C1I | C6H4INO3
